US04971993
N-t-butyloxycarbonyl-L-isoleucyl-L-proline benzylester (39.76 g, 95 mmole) was dissolved in 4N hydrochloric acid in dioxane (360 ml), and stirred for 30 minutes at room temperature. The solvent was distilled and the residue thus obtained was powdered in diethyl ether to obtain L-isoleucyl-L-proline benzylester hydrochloride(yield: 31.31 g, 92.9%).

reactant | N-t-butyloxycarbonyl-L-isoleucyl-L-proline benzylester | 95 mmole, 39.76 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O)=O | C23H34N2O5
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 360 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | L-isoleucyl-L-proline benzylester hydrochloride | yield: 31.31 g, 92.9% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)[C@@H](C)CC)=O)=O | InChI=1S/C18H26N2O3.ClH/c1-3-13(2)16(19)17(21)20-11-7-10-15(20)18(22)23-12-14-8-5-4-6-9-14;/h4-6,8-9,13,15-16H,3,7,10-12,19H2,1-2H3;1H/t13-,15-,16-;/m0./s1
